US04329473
The 2-isopropylsuccinic acid 1-ethyl ester was converted into the 4-acid chloride as in Step 2, Example XIII and condensed with 2-phenyl-4-benzyloxazolone, and the resultant product subsequently was decarboxylated and hydrolyzed to 5-benzamido-4-oxo-2-isopropyl-6-phenylhexanoic acid as in Steps 3-4, Example XIII. The intermediate hexanoic acid was condensed with L-proline benzyl ester in a manner similar to Step 8, Example I, Procedure A, except that 1-hydroxybenzotriazole was omitted. The resultant mixture of diastereomeric proline benzyl esters was hydrogenated over 10% palladium-on-carbon in 90% yield to afford 5-benzamido-4-oxo-2-isopropyl-6-phenylhexanoyl-L-proline as a isomeric mixture whose mass spectrum showed a peak at m/e 464 in agreement with the calculated molecular weight. Calcd (C27H32N2O5.H2O) C, 67.2; H, 7.10; N, 5.80. Found: C, 66.8; H, 6.60; N, 5.90.

reactant | 2-isopropylsuccinic acid 1-ethyl ester | C(C)OC(C(CC(=O)O)C(C)C)=O | C9H16O4
reactant | 5-benzamido-4-oxo-2-isopropyl-6-phenylhexanoic acid | C(C1=CC=CC=C1)(=O)NC(C(CC(C(=O)O)C(C)C)=O)CC1=CC=CC=C1 | C22H25NO4
reactant | hexanoic acid | C(CCCCC)(=O)O | C6H12O2
reactant | L-proline benzyl ester | C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O | C12H15NO2
reactant | 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
catalyst | palladium-on-carbon | [Pd] | Pd
product | 5-benzamido-4-oxo-2-isopropyl-6-phenylhexanoyl-L-proline | C(C1=CC=CC=C1)(=O)NC1C(C[C@](N1C(CCCCCC1=CC=CC=C1)=O)(C(=O)O)C(C)C)=O | C27H32N2O5
